US05770615
Following the procedure described in part E of Example 1 (R), (S)-α-[[2-[((1,1-dimethylethyl)dimethylsilyl)oxy]-2-[4-hydroxy-3-[(methylsulfonyl)amino]phenyl]ethyl]amino]-4-methoxybenzeneacetic acid was condensed with 3-[(dimethylamino)sulfonyl]aniline to generate the title compound. The 3-[(dimethylamino)sulfonyl]aniline was prepared by sequential treatment of commercial 3-nitrobenzenesulfonyl chloride with Me2NH in CH2Cl2 containing (i-Pr)2NEt followed by reduction with SnCl2 in EtOAc at 20° C.

reactant | 3-nitrobenzenesulfonyl chloride | [N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)Cl | C6H4ClNO4S
reactant | Me2NH | N(C)C | C2H7N
reactant | (i-Pr)2NEt | CCN(C(C)C)C(C)C | C8H19N
reactant | SnCl2 | Cl[Sn]Cl
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 3-[(dimethylamino)sulfonyl]aniline | CN(S(=O)(=O)C=1C=C(N)C=CC1)C | C8H12N2O2S
